US07423158B2
Preparation of 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-hydroxybut-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A mixture of copper iodide (8 mg, 0.04 mmol), bis(benzonitrile)dichloro palladium(II) (23 mg, 0.06 mmol) and anhydrous dioxane under argon was stirred for 3 min., treated with tri-t-butyl phosphine (10% in hexane) (240 mg, 0.12 mmol), stirred for 5 min. treated with diisopropyl amine (0.33 mL, 2.4 mmol) followed by a solution of 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one (0.82 g, 2 mmol) in dioxane and 1-hydroxy-2-propyne (0.47 mL, 0.006 mmol). The reaction mixture was heated to 35° C. for 30 min., poured into water and extracted with ethyl acetate. The extracts were combined, washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The resultant residue was purified by flash chromatography on silica gel, 1st in ethyl acetate 2nd 5% methanol/ethyl acetate as eluent to afford the title compound as a white solid, 0.39 g (48% yield), mp 90-93° C.; 1H NMR (DMSO-d6) δ 2.5 ((2H, under DMSO peak); 2.95 (s, 3 H); 3.5 (q, 2 H); 4.8 (t, 1 H); 6.6 (b, 2H); 7.1 (d, 2H); 7.15 (t, 2F); 7.2 (m, 2 H); 7.3 (m, 4 H); MS [(+)ESI] m/z=400.2 [M−H]+.

reactant | tri-t-butyl phosphine | 0.12 mmol, 240 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | diisopropyl amine | 2.4 mmol, 0.33 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 2 mmol, 0.82 g | NC1=NC(C(N1C)=O)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)Br | C17H14BrF2N3O2
reactant | 1-hydroxy-2-propyne | 0.006 mmol, 0.47 mL | OCC#C | C3H4O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 0.04 mmol, 8 mg | [Cu](I)I
catalyst | bis(benzonitrile)dichloro palladium(II) | 0.06 mmol, 23 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | water | O | H2O
product | 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-hydroxybut-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 48% yield | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C#CCCO)C1=CC=C(C=C1)OC(F)F | C21H19F2N3O3
